US04812473
Preparation of 1-benzyl-5-(2,6-dimethylheptyl)imidazole
In 10 ml of ethanol was dissolved 0.6 g of 1-benzyl-5-[(E)-2,6-dimethyl-1,5-heptadienyl]imidazole obtained in Reference Example 1. To the solution was added 0.1 g of 10% palladium-carbon, and the mixture was subjected to ctalytic reduction under atmospheric pressure. After a theoretical amount of hydrogen was consumed, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was recrystallized from hexane, giving the title compound in a yield of 95%.

reactant | 1-benzyl-5-[(E)-2,6-dimethyl-1,5-heptadienyl]imidazole | 0.6 g | C(C1=CC=CC=C1)N1C=NC=C1\C=C(\CCC=C(C)C)/C | C19H24N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 1-benzyl-5-(2,6-dimethylheptyl)imidazole | yield of 95% | C(C1=CC=CC=C1)N1C=NC=C1CC(CCCC(C)C)C | C19H28N2
